US04659706
A solution of 6-bromo-8-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (2.7 g, 0.01 m) in toluene (30 ml) is added to a solution of n-butyl lithium (0.044 m) in toluene (15 ml) stirred at -78°. The mixture is stirred for thirty minutes, treated with a solution of methyl disulfide (8.2 g, 0.087 m) in toluene (10 ml), stirred for fifteen minutes and poured into water (125 ml). The mixture is acidified with 10% hydrochloric acid and the aqueous phase is washed with ether, made alkaline with aqueous sodium hydroxide and extracted with ethyl acetate. The ethyl acetate extract is washed, dried with sodium sulfate and concentrated in vacuo to give 8-methoxy-3-methyl-6-methylthio-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 6-bromo-8-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.7 g | BrC1=CC(=CC=2CCN(CCC21)C)OC | C12H16BrNO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl disulfide | 8.2 g | CSSC | C2H6S2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 125 ml | O | H2O
product | 8-methoxy-3-methyl-6-methylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | COC=1C=C(C2=C(CCN(CC2)C)C1)SC | C13H19NOS
